US05081131
N-(4-(4-Pyridinyl)butyl)benz(cd)indol-2-amine hydriodide
A mixture consisting of 3.3 grams of 4-(4-pyridinyl)butanamine, 6.5 grams of 2-methylthiobenz (cd)indole hydriodide, and 200 ml of ethanol. Cooling to room temperature failed to effect precipitation, so that solution was concentrated to 100 ml volume and cooled at -10° C. The precipitate that formed was collected, washed with ethanol, and dried. The yield of title compound was 6.1 grams; mp 197° C.-199° C. with decomposition.

reactant | 4-(4-pyridinyl)butanamine | 3.3 grams | N1=CC=C(C=C1)CCCCN | C9H14N2
reactant | 2-methylthiobenz (cd)indole hydriodide | 6.5 grams | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(4-(4-Pyridinyl)butyl)benz(cd)indol-2-amine hydriodide | I.N1=CC=C(C=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C20H19N3.HI/c1(5-15-10-13-21-14-11-15)2-12-22-20-17-8-3-6-16-7-4-9-18(23-20)19(16)17;/h3-4,6-11,13-14H,1-2,5,12H2,(H,22,23);1H
